US07053089B2
(4-Methyl-pyrimidin-2-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine
EXAMPLE 94 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2-chloro-4-methyl-pyrimidine: MS (m+1)=375.5.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 2-chloro-4-methyl-pyrimidine | ClC1=NC=CC(=N1)C | C5H5ClN2
product | (4-Methyl-pyrimidin-2-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine | CC1=NC(=NC=C1)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1 | C19H26N4O2S
